US07741351B2
N-{[3-(2-{[(1-methylethyl)sulfonyl]amino}-2,3-dihydro-1H-inden-5-yl)phenyl]methyl}acetamide
The title compound was prepared from N-{5-[3-(aminomethyl)phenyl]-2,3-dihydro-1H-inden-2-yl}-2-propanesulfonamide and acetyl chloride in a similar manner to Example 12.

reactant | N-{5-[3-(aminomethyl)phenyl]-2,3-dihydro-1H-inden-2-yl}-2-propanesulfonamide | NCC=1C=C(C=CC1)C=1C=C2CC(CC2=CC1)NS(=O)(=O)C(C)C | C19H24N2O2S
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
product | N-{[3-(2-{[(1-methylethyl)sulfonyl]amino}-2,3-dihydro-1H-inden-5-yl)phenyl]methyl}acetamide | CC(C)S(=O)(=O)NC1CC2=CC=C(C=C2C1)C=1C=C(C=CC1)CNC(C)=O | C21H26N2O3S
